US07989461B2
To a microwave vial were added 3-(trifluoromethyl)aniline (343 μl, 2777 μmol), 6-bromo-4-chloro-7-methyl-8-nitroquinazoline (840 mg, 2777 μmol) and IPA (5 mL). The reaction mixture was heated to 140° C. for 20 min. On cooling a ppt was observed to form which was then washed with hexane, filtered and air-dried to afford 6-bromo-7-methyl-8-nitro-N-(3-(trifluoromethyl)phenyl)quinazolin-4-amine (569 mg, 48.0% yield) as an amorphous yellow solid. MS (M+H)+ 427, 429.

reactant | 3-(trifluoromethyl)aniline | 2777 μmol, 343 μl | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | 6-bromo-4-chloro-7-methyl-8-nitroquinazoline | 2777 μmol, 840 mg | BrC=1C=C2C(=NC=NC2=C(C1C)[N+](=O)[O-])Cl | C9H5BrClN3O2
solvent | IPA | 5 mL | CC(C)O | C3H8O
product | 6-bromo-7-methyl-8-nitro-N-(3-(trifluoromethyl)phenyl)quinazolin-4-amine | 569 mg, 48.0% yield | BrC=1C=C2C(=NC=NC2=C(C1C)[N+](=O)[O-])NC1=CC(=CC=C1)C(F)(F)F | C16H10BrF3N4O2
